US05552427
Ethyl chlorocarbonate (0.6 g) was added to a solution of 2-amino-1-methylimidazole hydrochloride (0.3 g) in pyridine (5 ml), and the mixture was stirred under heating at 100° C. for 2 hours. The solvent was evaporated under reduced pressure, the residue was dissolved in water, and sodium carbonate was added until the solution became alkaline. The solvent was evaporated under reduced pressure, and then the residue was purified by column chromatography on silica gel (eluent: chloroform) to give 2-ethoxycarbonylamino-1-methylimidazole. This compound was dissolved in dichloromethane, and 4N hydrochloric acid-ethyl acetate (2 ml) was added to form its hydrochloric acid salt. The resulting crude crystals were washed with ether to give 2-ethoxycarbonylamino-1-methylimidazole hydrochloride (0.29 g, Yield: 56%) as colorless prisms.

reactant | Ethyl chlorocarbonate | 0.6 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-amino-1-methylimidazole hydrochloride | 0.3 g | Cl.NC=1N(C=CN1)C
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-ethoxycarbonylamino-1-methylimidazole | C(C)OC(=O)NC=1N(C=CN1)C | C7H11N3O2
